US08133882B2
To a 5.0 ml ethanol solution of 500 mg of 7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carbaldehyde was added 215 mg of ethyl aminoacetate hydrochloride, followed by stirring at room temperature for 2 hours. Next, 50 mg of palladium-carbon was added thereto, followed by stirring at room temperature for 4 hours in an atomosphere of hydrogen. The reaction mixture was filtered through celite and then evaporated under a reduced pressure. The resulting residue was purified by silica gel column chromatography. To a 3.6 ml dioxane solution of the resulting compound was added 4.0 ml of a 4 M hydrogen chloride dioxane solution, followed by overnight stirring at room temperature. The insoluble materials were collected by filtration to obtain 320 mg of ethyl({[7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl]methyl}amino)acetate hydrochloride.

reactant | 7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carbaldehyde | 500 mg | C1(CCCCC1)NC1=C(C=C2C(C(=CN(C2=C1)C1CCCC1)C=O)=O)F | C21H25FN2O2
reactant | ethyl aminoacetate hydrochloride | 215 mg | Cl.NCC(=O)OCC
reactant | hydrogen | [H][H] | H2
catalyst | palladium-carbon | 50 mg | [C].[Pd]
solvent | ethanol | 5.0 ml | C(C)O | C2H6O
product | ethyl({[7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl]methyl}amino)acetate hydrochloride | 320 mg | Cl.C(C)OC(CNCC1=CN(C2=CC(=C(C=C2C1=O)F)NC1CCCCC1)C1CCCC1)=O | InChI=1S/C25H34FN3O3.ClH/c1-2-32-24(30)15-27-14-17-16-29(19-10-6-7-11-19)23-13-22(21(26)12-20(23)25(17)31)28-18-8-4-3-5-9-18;/h12-13,16,18-19,27-28H,2-11,14-15H2,1H3;1H
